US06180627B2
2-[3-({[(2R,4R)-4-Methyl-1-(2,2,2-trifluoroacetyl)piperidinyl]methyl}amino)-6-methyl-2-oxo-1(2H)-pyrazinyl]acetic acid
10% Palladium on charcoal (200 mg), followed by ammonium formate (1.1 g, 17.4 mmol) were added to a solution of benzyl 2-[3-({[(2R,4R)-4-methyl-1-(2,2,2-trifluoroacetyl)piperidinyl]methyl}amino)-5-chloro-6-methyl-2-oxo-1(2H)-pyrazinyl]acetate (preparation 90) (900 mg, 1.74 mmol) in methanol (20 ml) and the reaction was stirred at room temperature overnight. Additional 10% palladium on charcoal (50 mg) was added and the reaction stirred for a further 24 hrs. The mixture was filtered through Whatman® fibre and the filtrate concentrated under reduced pressure. The residue was suspended in a methanol:dichloromethane (10:90) solution, the resulting precipitate filtered off, and the filtrate evaporated under reduced pressure to provide the title compound as a white solid, (600 mg, 92%).

reactant | ammonium formate | 17.4 mmol, 1.1 g | C(=O)[O-].[NH4+]
reactant | benzyl 2-[3-({[(2R,4R)-4-methyl-1-(2,2,2-trifluoroacetyl)piperidinyl]methyl}amino)-5-chloro-6-methyl-2-oxo-1(2H)-pyrazinyl]acetate | 1.74 mmol, 900 mg | C[C@H]1C[C@@H](N(CC1)C(C(F)(F)F)=O)CNC=1C(N(C(=C(N1)Cl)C)CC(=O)OCC1=CC=CC=C1)=O | C23H26ClF3N4O4
catalyst | Palladium on charcoal | 200 mg | [Pd] | Pd
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium on charcoal | 50 mg | [Pd] | Pd
product | 2-[3-({[(2R,4R)-4-Methyl-1-(2,2,2-trifluoroacetyl)piperidinyl]methyl}amino)-6-methyl-2-oxo-1(2H)-pyrazinyl]acetic acid | 600 mg, 92% | C[C@H]1C[C@@H](N(CC1)C(C(F)(F)F)=O)CNC=1C(N(C(=CN1)C)CC(=O)O)=O | C16H21F3N4O4
